Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[O:7][H:8],1.94366087598
[C:11]([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.26924894775
[H:8].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.8499100222500005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:4]([H:5])=[C:6]([H:7])[O:8][H:9].[H:1][C:2]=[O:3],1.30896676975
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-1.0425789908399998
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-3.72583665272
[C:2](=[C:3](\[H:4])[C:5][H:6])\[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-7.516122026160001
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10].[H:11],4.02590083821
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.0813948
[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.13160873872
[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:8]([O:7])([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]1[O:7][C:8]1([H:9])[H:10],-1.75883955357
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8]([H:9])[H:10]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],4.11051782293
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.61192153436
[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.05828831473
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:8]([O:7])([H:9])[H:10],-2.90746279098
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-6.32204390498
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.33325799204
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],4.5631782386
[C:1]#[C:2][C:3]([H:4])[O:5][O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6].[H:7],4.167996727119999
[H:1][C:2][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.27132802903
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[H:9]>>[C:3]([H:4])[H:5].[O:1]=[C:2][C:6]([H:7])([H:8])[H:9],5.24816227445
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10]>>[C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10].[O:1],6.51085324785
[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.94186429399
[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],6.8724984699
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.87369483453
[C:1]#[C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:1][C:2][O:3].[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],-1.13220150495
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][C:11]([H:12])([H:13])[H:14].[H:10]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-1.82545530358
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.16179315879
[C:2]([H:3])([H:4])=[O:6].[O:1](/[C:5]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[H:7]>>[O:1][C:2]([H:3])([H:4])/[C:5]([O:6][H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.5915526772600002
